US08304419B2
Step B: 4-chloro-2-(1-methylethyl)-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole
A solution of N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}-2-methylpropanamide (1.60 g, 6.5 mmol), triphenylphosphine (4.2 g, 16.0 mmol), and carbon tetrachloride (1.6 mL, 16.6 mmol) in acetonitrile (65 mL) was heated at 45° C. for 4.5 h. The reaction was concentrated and the residue was stirred in CH2Cl2 (70 mL) and 0.5 N NaOH (60 mL) for 10 min. The organic layer was isolated, dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash column chromatography (5-50% EtOAc:hexanes) to give the title compound (0.710 g, 41%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 10.69 (br. s., 1H), 7.28-7.36 (m, 5H), 4.51 (s, 2H), 4.48 (s, 2 H), 2.92 (sept, 1H), 1.24 (d, 6H).

reactant | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}-2-methylpropanamide | 6.5 mmol, 1.60 g | C(#N)C(COCC1=CC=CC=C1)NC(C(C)C)=O | C14H18N2O2
reactant | triphenylphosphine | 16.0 mmol, 4.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 16.6 mmol, 1.6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
product | 4-chloro-2-(1-methylethyl)-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole | 0.710 g, 41% | ClC=1N=C(NC1COCC1=CC=CC=C1)C(C)C | C14H17ClN2O
